US04006009
Preparation of Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol- 2-yl)-3-methyl-6-acryloyloxy-2(1H)-pyrimidinone
Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)- 3-methyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole), triethylamine (0.06 mole) and benzene (50 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. Acryloyl chloride (0.05 mole) is then added dropwise with stirring. After the addition is completed, the reaction mixture is heated at reflux with continued stirring for a period of about 30 minutes. After this time the reaction mixture is filtered and the filtrate is stripped of solvent under reduced pressure to yield the desired product tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol- 2-yl)-3-methyl-6-acryloyloxy-2(1H)-pyrimidinone as the residue.

reactant | Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)- 3-methyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | C(C)(C)(C)C1=NN=C(S1)N1C(N(CCC1O)C)=O | C11H18N4O2S
reactant | triethylamine | 0.06 mole | C(C)N(CC)CC | C6H15N
reactant | Acryloyl chloride | 0.05 mole | C(C=C)(=O)Cl | C3H3ClO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol- 2-yl)-3-methyl-6-acryloyloxy-2(1H)-pyrimidinone | C(C)(C)(C)C1=NN=C(S1)N1C(N(CCC1OC(C=C)=O)C)=O | C14H20N4O3S
